US07645789B2
To a solution of 7-chlorobenzo[d][1,3]dioxole-5-carbaldehyde (6.0 g, 33 mmol) in THF (50 mL) was added NaBH4 (2.5 g, 64 mmol)) in portions at 0° C. The mixture was stirred at this temperature for 30 min and then poured into aqueous NH4Cl solution. The organic layer was separated, and the aqueous phase was extracted with EtOAc (50 mL×3). The combined extracts were dried over Na2SO4 and evaporated under reduced pressure to afford (7-chlorobenzo[d][1,3]dioxol-5-yl)methanol, which was directly used in the next step.

reactant | 7-chlorobenzo[d][1,3]dioxole-5-carbaldehyde | 33 mmol, 6.0 g | ClC1=CC(=CC2=C1OCO2)C=O | C8H5ClO3
reactant | NaBH4 | 64 mmol, 2.5 g | [BH4-].[Na+]
reactant | NH4Cl | [NH4+].[Cl-]
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | (7-chlorobenzo[d][1,3]dioxol-5-yl)methanol | ClC1=CC(=CC2=C1OCO2)CO | C8H7ClO3
